US06967254B2
4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
The solution of 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one 0.30 g, 20 mg Pd/C and 20 mL methanol was stirred at room temperature. Air was bubbled through for 2 hours. Filtered off the Pd/C catalyst, vacuumed down all solvent. The title compound was obtained as white solid 0.29 g. MS (ES+): 306 (M+H)+.

reactant | 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | 0.30 g | ClC=1C=C(C=CC1Cl)C1C(NNC1C1=CC=NC=C1)=O | C14H11Cl2N3O
solvent | methanol | 20 mL | CO | CH4O
product | 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC=1C=C(C=CC1Cl)C=1C(NNC1C1=CC=NC=C1)=O | C14H9Cl2N3O
